US06268363B1
Synthesis of methyl 3-chloro-3-(naphthalen-1-yl)-2-oxopropionate
7.80 g(49.9 mmol) of 1-naphthaldehyde and 7.15 g(49.9 mmol) of methyl dichloroacetate were dissolved in 100 ml of t-butanol, and 6.15 g(54.8 mmol) of potassium t-butoxide was added thereto at 0° C. The mixture was stirred at room temperature for 24 hours and then 50 ml of water was added to stop the reaction. The solvent was removed under reduced pressure and the residue was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, concentrated and subjected to silica gel column chromatography(eluent: n-hexane/ethyl acetate=90/10, v/v) to give 2.5 g(9.52 mmol, Yield 19%) of the title compound.

reactant | 1-naphthaldehyde | 49.9 mmol, 7.80 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | methyl dichloroacetate | 49.9 mmol, 7.15 g | ClC(C(=O)OC)Cl | C3H4Cl2O2
reactant | potassium t-butoxide | 54.8 mmol, 6.15 g | CC(C)([O-])C.[K+]
reactant | water | 50 ml | O | H2O
reactant | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | methyl 3-chloro-3-(naphthalen-1-yl)-2-oxopropionate | 9.52 mmol, 2.5 g, Yield 19% | ClC(C(C(=O)OC)=O)C1=CC=CC2=CC=CC=C12 | C14H11ClO3
